US07030123B2
Using the general method described for 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene in Example 2, except that one equivalent of NaH was used, 4-(3,6-dimethoxyphenylsulphanyl)-2-amino-nitrobenzene (4.19 g) was prepared from 3,6-dimethoxybenzenethiol (2.55 g; 15 mmol).

reactant | 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene | OC1=CC=C(C=C1)SC1=CC(=C(C=C1)[N+](=O)[O-])N | C12H10N2O3S
reactant | NaH | one equivalent | [H-].[Na+]
reactant | 3,6-dimethoxybenzenethiol | 15 mmol, 2.55 g | COC=1C=C(C(=CC1)OC)S | C8H10O2S
product | 4-(3,6-dimethoxyphenylsulphanyl)-2-amino-nitrobenzene | 4.19 g | COC=1C=C(C(=CC1)OC)SC1=CC(=C(C=C1)[N+](=O)[O-])N | C14H14N2O4S
